US04550105
To a mixture of 288 mg of cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester, 10 ml of tetrahydrofuran and 5 ml of 1N-sodium hydrogen carbonate, which is previously stirred under ice-cooling, is added dropwise a solution of 0.32 ml of 2-thienyl acetyl chloride in 10 ml of tetrahydrofuran. To the mixture, after being stirred for 10 minutes, are added 100 ml of ethyl acetate and 20 ml of a saturated aqueous solution of sodium chloride, followed by stirring, and the organic layer is separated. The aqueous layer is subjected to extraction with 30 ml of ethyl acetate, and the extract is combined with the organic layer. The whole organic layer is washed with a saturated aqueous solution of sodium chloride (20 ml×3), dried and concentrated under reduced pressure. To the residue is added 4 ml of a mixed solution (ethyl acetate:hexane=1:2), and the resulting crystals are collected by filtration and dried to afford 430 mg (80%) of cis-3-(2-thienylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester, m.p. 133°-136° C.

reactant | cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester | 288 mg | COC(=O)[C@@H]1[C@@H](C(N1)=O)N | C5H8N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-thienyl acetyl chloride | 0.32 ml | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | cis-3-(2-thienylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester | 430 mg, 80% | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(CC=1SC=CC1)=O | C11H12N2O4S
